US04016289
Known in the present-day practice is a method of producing the bisulfite compound of 2-fluorenonyl-glyoxal, said method consisting in that fluorene is acylated by acetic anhydride in the presence of aluminum chloride to obtain 2-acetylfluorene at a yield of 60 weight percent. Then the thus-obtained 2-acetylfluorene is oxidized by sodium bichromate in an acetic-acid medium at 70°-75° C during 6 hours and 2-acetylfluorenon is isolated at a yield of 50 weight percent.

reactant | fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2-acetylfluorene | C(C)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C15H12O
